US04239903
A mixture of 5.0 g of p-ethoxyphenyl acetic acid, 7.0 g of phosphoric pentachloride and 10 ml of anhydrous benzene was heated at 80° C. for 2 hours. The reaction solution was concentrated under reduced pressure and the residue obtained was dissolved in 20 ml of anhydrous dichloromethane. This solution was added dropwise to a mixture, cooled to -50° C., of 7.3 g of anhydrous aluminum chloride and 80 ml of anhydrous dichloromethane. Then, ethylene gas was fed into the solution for 20 minutes. Subsequently, the solution was stirred at room temperature (about 25° C.) for 4 hours. Into the reaction solution cooled with ice was added dropwise 30 ml of water. The dichloromethane layer was removed and washed with an 8% hydrochloric acid aqueous solution, water, a saturated sodium bicarbonate aqueous solution and water in this order. Then the dichloromethane layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 6-ethoxy-2-tetralone as a pale-yellow oily product. The crude product, 6-ethoxy-2-tetralone obtained as described above, was catalytically reduced in the presence of hydrogen in a mixture of 0.4 g of platinum oxide and 40 ml of a 20% ethylamine-ethanol solution. After take up of hydrogen had been completed, the platinum oxide catalyst was filtered from the reaction solution and the filtrate was concentrated under reduced pressure. Then the residue was extracted with chloroform and the chloroform layer as washed with a 2 N-NaOH aqueous solution and water in this order, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Adding an ethanolic solution of hydrogen chloride having a concentration of about 18% to the residue, the solution was concentrated under reduced pressure to cause crystals to form. The crystals were recrystallized from a mixed solution of ethanol and diethyl ether to obtain 1.4 g of N-ethyl-6-ethoxy-1,2,3,4-tetrahydro-2 -naphthylamine hydrochloride as colorless needles having a melting point of 207°-209° C.

reactant | p-ethoxyphenyl acetic acid | 5.0 g | C(C)OC1=CC=C(C=C1)CC(=O)O | C10H12O3
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | aluminum chloride | 7.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethylene | C=C | C2H4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 6-ethoxy-2-tetralone | C(C)OC=1C=C2CCC(CC2=CC1)=O | C12H14O2
